US03989707
To a stirred solution of 1.9 parts of sodium hydride dispersion 75% in 100 parts of hexamethylphosphoric triamide are added portionwise 16.2 parts of ethyl 4-(5-chloro-2-oxo-1-benzimidazolinyl)-1-piperidinecarboxylate (exothermic reaction: temperature rises to 40° C). After stirring for one hour at room temperature, there are added dropwise 8.9 parts of 3-bromo-2-propyne (exothermic reaction: temperature rises to about 40° C). Upon completion, stirring is continued overnight at 60° C. The reaction mixture is cooled, poured onto ice-water and the product is extracted with methylbenzene. The extract is dried, filtered and evaporated. The oily residue is triturated in 2,2'-oxybispropane. The solid product is filtered off and dried, yielding ethyl 4-[5-chloro-1,3-dihydro-2-oxo-3-(2-propynyl)-2H-benzimidazol-1-yl]-1-piperidine-carboxylate; mp. 126.1° C.

reactant | sodium hydride | [H-].[Na+]
reactant | ethyl 4-(5-chloro-2-oxo-1-benzimidazolinyl)-1-piperidinecarboxylate | ClC1=CC2=C(N(C(N2)=O)C2CCN(CC2)C(=O)OCC)C=C1 | C15H18ClN3O3
reactant | 3-bromo-2-propyne | BrC#CC | C3H3Br
solvent | hexamethylphosphoric triamide | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | ethyl 4-[5-chloro-1,3-dihydro-2-oxo-3-(2-propynyl)-2H-benzimidazol-1-yl]-1-piperidine-carboxylate | ClC1=CC2=C(N(C(N2CC#C)=O)C2CCN(CC2)C(=O)OCC)C=C1 | C18H20ClN3O3
